datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1.O=C([O-])C[NH:10]CCc1nnn[n-]1>>C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1.O=C([O-])C[NH+:10](CCc1nnn[n-]1)[H:20] 10=20;20,21=21",
"CCCCCCCCCCCC[NH:10]CCCCCCCCCCCC.O=C1OC2=C(C=CC=C2)[CH:21]1[H:20]>>CCCCCCCCCCCC[NH+:10](CCCCCCCCCCCC)[H:20].O=C1OC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"O=Cc1cccc(C=O)[n:10]1.[H:20][F:21]>>O=Cc1cccc(C=O)[n+:10]1[H:20].[F-:21] 10=20;20,21=21",
"CC[SH+]C(C)(O)[O-:10].Cc1cccc([NH3+])c1C(=O)[O:21][H:20]>>CC[SH+]C(C)(O)[O:10][H:20].Cc1cccc([NH3+])c1C(=O)[O-:21] 10=20;20,21=21",
"C[Si](C)(C)C[NH:10]C1CCCCC1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[Si](C)(C)C[NH+:10](C1CCCCC1)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(C)(C)c1cc([NH2:10])cc(C(C)(C)C)c1[N+](=O)[O-].COc1ccc(I)cc1C(=O)N[C@@H]1C[C@H]2CC[C@@H](C1)[N+:21]2(Cc1ccccc1)[H:20]>>CC(C)(C)c1cc([NH2+:10][H:20])cc(C(C)(C)C)c1[N+](=O)[O-].COc1ccc(I)cc1C(=O)N[C@@H]1C[C@H]2CC[C@@H](C1)[N:21]2Cc1ccccc1 10=20;20,21=21",
"Cc1ccc(Cl)cc1C(=O)[O-:10].Cc1cccc(CCCCCCCC(=O)[O-])[n+:21]1[H:20]>>Cc1ccc(Cl)cc1C(=O)[O:10][H:20].Cc1cccc(CCCCCCCC(=O)[O-])[n:21]1 10=20;20,21=21",
"NC1CC[NH:10]CC1.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>NC1CC[NH+:10]([H:20])CC1.O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"CCOc1ccc2c(c1)c(N)c1ccc([N+](=O)[O-])cc1[n:10]2.COc1cc(S(C)=O)ccc1-c1cn2ccnc(OC)c2[n+:21]1[H:20]>>CCOc1ccc2c(c1)c(N)c1ccc([N+](=O)[O-])cc1[n+:10]2[H:20].COc1cc(S(C)=O)ccc1-c1cn2ccnc(OC)c2[n:21]1 10=20;20,21=21",
"Nc1c2ccccc2cn[n:10]1.O=[N+]([O-])c1ccc([O-])c(C[N+:21]2([H:20])CCCCC2)c1>>Nc1c2ccccc2cn[n+:10]1[H:20].O=[N+]([O-])c1ccc([O-])c(C[N:21]2CCCCC2)c1 10=20;20,21=21",
"C1C[NH2+]CC[NH+:21]([H:20])CCN1.C[N:10]1CC[C@]23c4c5ccc(O)c4O[C@H]2C(=O)CC[C@H]3[C@H]1C5>>C1C[NH2+]CC[NH:21]CCN1.C[N+:10]1([H:20])CC[C@]23c4c5ccc(O)c4O[C@H]2C(=O)CC[C@H]3[C@H]1C5 10=20;20,21=21",
"C/C=C/C1=C([O-:10])C(=O)c2ccccc2C1=O.Cc1cccc2ccc([O:21][H:20])cc12>>C/C=C/C1=C([O:10][H:20])C(=O)c2ccccc2C1=O.Cc1cccc2ccc([O-:21])cc12 10=20;20,21=21",
"Cc1ccc(C[NH2+:21][H:20])cc1N.O=C([O-])C(CC1=CNC(=S)N1)[NH2:10]>>Cc1ccc(C[NH2:21])cc1N.O=C([O-])C(CC1=CNC(=S)N1)[NH2+:10][H:20] 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.[Se-]CC[NH2:10]>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.[Se-]CC[NH2+:10][H:20] 10=20;20,21=21",
"COc1cc2c(cc1[O:21][H:20])OC(=O)C=C2.Cc1cc(C(C)(C)C)cc(C)c1C(=O)[O-:10]>>COc1cc2c(cc1[O-:21])OC(=O)C=C2.Cc1cc(C(C)(C)C)cc(C)c1C(=O)[O:10][H:20] 10=20;20,21=21",
"Oc1ccc(C[NH2:10])cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Oc1ccc(C[NH2+:10][H:20])cc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCC[NH:10]C(C)C(=O)[O-].O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>CCC[NH+:10](C(C)C(=O)[O-])[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"CCN(CC)c1nc[n+:21]([H:20])c2[nH]ncc12.CCNc1cc[nH+]c([S-:10])n1>>CCN(CC)c1nc[n:21]c2[nH]ncc12.CCNc1cc[nH+]c([S:10][H:20])n1 10=20;20,21=21",
"COc1cccc(OC)c1-c1nc2ncccc2[n:21]1[H:20].Cc1n[n:10]c2c(c1C)CCCC2>>COc1cccc(OC)c1-c1nc2ncccc2[n-:21]1.Cc1n[n+:10]([H:20])c2c(c1C)CCCC2 10=20;20,21=21",
"NC1CC[NH:10]CC1.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>NC1CC[NH+:10]([H:20])CC1.[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"C#CC(=O)[O-:10].C[N+:21]1([H:20])CCC=C(C#N)C1>>C#CC(=O)[O:10][H:20].C[N:21]1CCC=C(C#N)C1 10=20;20,21=21",
"Cc1cc([S-])[nH+]c[n:10]1.c1cc[n+:21]([H:20])c(-c2ccoc2)c1>>Cc1cc([S-])[nH+]c[n+:10]1[H:20].c1cc[n:21]c(-c2ccoc2)c1 10=20;20,21=21",
"CCCC(C(CC)CO)C(CC)C(=O)[O-:10].CC[NH+](CC)Cc1c(Cl)cccc1[O:21][H:20]>>CCCC(C(CC)CO)C(CC)C(=O)[O:10][H:20].CC[NH+](CC)Cc1c(Cl)cccc1[O-:21] 10=20;20,21=21",
"CC(=O)Nc1cccc2c1cc1ccccc1[n:10]2.NC(=O)CCCc1ccc[n+:21]([H:20])c1>>CC(=O)Nc1cccc2c1cc1ccccc1[n+:10]2[H:20].NC(=O)CCCc1ccc[n:21]c1 10=20;20,21=21",
"CC(C)(C)c1cc(/C=C/C(=O)[O-])cc(C(C)(C)C)c1[O-:10].Cc1ccc2c(c1)c1c(c(C)[n+:21]2[H:20])C(C)C(C)O1>>CC(C)(C)c1cc(/C=C/C(=O)[O-])cc(C(C)(C)C)c1[O:10][H:20].Cc1ccc2c(c1)c1c(c(C)[n:21]2)C(C)C(C)O1 10=20;20,21=21",
"COc1ccc2nccc(C(O)C3CCCC[NH:10]3)c2c1.Cc1ccc(CNCC[NH2+:21][H:20])cc1>>COc1ccc2nccc(C(O)C3CCCC[NH+:10]3[H:20])c2c1.Cc1ccc(CNCC[NH2:21])cc1 10=20;20,21=21",
"CC(=O)c1ccc([N+](=O)[O-])cc1C(=O)[O-:10].CCOc1ccc2[nH]c(C(C)C)[n+:21]([H:20])c2c1>>CC(=O)c1ccc([N+](=O)[O-])cc1C(=O)[O:10][H:20].CCOc1ccc2[nH]c(C(C)C)[n:21]c2c1 10=20;20,21=21",
"Cc1[nH][n:10]c(C)c1C.Cc1cc(C(=O)[O:21][H:20])ccc1Br>>Cc1[nH][n+:10]([H:20])c(C)c1C.Cc1cc(C(=O)[O-:21])ccc1Br 10=20;20,21=21",
"CCCC[NH2+]CCC(=O)[O-:10].Cc1ccc2c(c1)nn[n:21]2[H:20]>>CCCC[NH2+]CCC(=O)[O:10][H:20].Cc1ccc2c(c1)nn[n-:21]2 10=20;20,21=21",
"Cc1cc[n+]([O:21][H:20])cc1.Cn1cnc2c([O-:10])[nH+]cnc21>>Cc1cc[n+]([O-:21])cc1.Cn1cnc2c([O:10][H:20])[nH+]cnc21 10=20;20,21=21",
"C[NH:10]CC(=O)[O-].[H][C:21](C(C)=O)(C(C)=O)[H:20]>>C[NH+:10](CC(=O)[O-])[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"CCCC[O-:10].COC1=CC=C([CH:21](C(=O)C2=CC=[N+](C)C=C2)[H:20])C=C1>>CCCC[O:10][H:20].COC1=CC=C([CH-:21]C(=O)C2=CC=[N+](C)C=C2)C=C1 10=20;20,21=21",
